Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR, dizziness
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Mr. ___ is a ___ M with PMH of HTN, HLD, and rising PSA who 
underwent prostate biopsy today who presents with BRBPR. Patient 
reports that he was in his usual state of health prior to 
trans-rectal prostate biopsy performed this morning at 0845 ___ was planned given a rising PSA over the past ___ 
years up to 6.9 recently. He returned home after the biopsy and 
immediately felt like he needed to have a bowel movement. He had 
multiple episodes of BRBPR at home prompting presentation to the 
ED, where he continued to have significant amount of BRBPR. He 
denies clots. His last bloody BM was approximately 2 hours prior 
to arriving to the floor. He endorses associated lightheadedness 
with standing, nausea, and 1 episode of non-bloody non-bilious
emesis. He also endorses significant rectal pain which has 
worsened since intra-operative analgesic has been wearing off. 
He denies fevers, chest pain, SOB, abdominal pain. He denies 
taking any blood thinners at home. He has never had any BRBPR 
before and his last colonoscopy was normal in ___. 

In the ED, initial vitals were T 97.6, HR 110, BP 121/84, RR 18, 
O2 sat 99% RA. His exam was notable for no abdominal tenderness.
Labs were notable for WBC 13.1 (1400)-> 12.0 (1602), Hb 14.6 
(1400) -> 13.3 (1602), hematocrit 44 -> 39, plt 179 -> 178.
Lactate was 2.4 and improved to ___ s/p 1L LR. BNP was wnl. He 
had no additional studies. He received 1L LR. Urology was 
consulted in the ED, awaiting recs at time of admission. 

On arrival to the floor, patient confirms the above story. He 
endorses significant rectal pain and a headache, requesting pain 
medications and also dinner. His last episode of BRBPR was about 
2 hours ago but he feels like he may have another episode after 
eating. He denies hematuria. 
 
Past Medical History:
Rising PSA s/p prostate biopsy on ___
OSA on CPAP
HTN 
HLD
Gout
Rosacea
Arthritis 
Colon adenoma (___)
B/l knee replacements ___
rotator cuff surgery ___
 
Social History:
___
Family History:
Mother- ___
Father- CHF, Afib
Son- glioblastoma, deceased ___
No family hx of prostate or colon cancer 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VITALS: reviewed in OMR
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: CTABL. No wheezes, rhonchi or rales. No increased work of
breathing.
ABDOMEN: +BS, non distended, non-tender to deep palpation in all
four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
RECTAL: deferred given s/p biopsy 
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
=======================
VITALS: 24 HR Data (last updated ___ @ 840)
    Temp: 97.8 (Tm 99.2), BP: 120/86 (107-125/76-86), HR: 91
(81-102), RR: 18 (___), O2 sat: 96% (94-96), O2 delivery: Ra  
GENERAL: Alert and interactive. In no acute distress.
HEENT: EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: CTABL. No wheezes, rhonchi or rales. No increased work of 
breathing.
ABDOMEN: +BS, non distended, non-tender to deep palpation in all 
four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema.
RECTAL: deferred given s/p biopsy 
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:00PM BLOOD WBC-13.1* RBC-4.70 Hgb-14.6 Hct-44.1 
MCV-94 MCH-31.1 MCHC-33.1 RDW-13.2 RDWSD-45.2 Plt ___
___ 03:45PM BLOOD WBC-12.0* RBC-4.24* Hgb-13.3* Hct-39.4* 
MCV-93 MCH-31.4 MCHC-33.8 RDW-13.4 RDWSD-45.7 Plt ___
___ 02:00PM BLOOD Glucose-138* UreaN-13 Creat-0.8 Na-135 
K-4.4 Cl-98 HCO3-21* AnGap-16
___ 02:12PM BLOOD Lactate-2.4*
___ 04:02PM BLOOD Lactate-2.0

DISCHARGE LABS
==============
___ 05:22AM BLOOD WBC-6.9 RBC-3.98* Hgb-12.3* Hct-37.3* 
MCV-94 MCH-30.9 MCHC-33.0 RDW-13.2 RDWSD-45.4 Plt ___
___ 05:22AM BLOOD Glucose-114* UreaN-10 Creat-0.8 Na-138 
K-4.2 Cl-102 HCO3-26 AnGap-___ M with PMH of HTN, HLD, and rising PSA who underwent 
prostate biopsy on ___ presenting with BRBPR concerning for 
hemorrhage ___ trans-rectal biopsy. 

ACUTE/ACTIVE ISSUES:
====================
#BRBPR iso trans-rectal prostate biopsy
Patient had biopsy on ___ with BRBPR beginning shortly after. 
Nothing on history or physical to suggest GI cause of bleed, 
most likely post-procedural. Hgb decreased from baseline of 14 
to 12. Patient was admitted for close monitoring. H/H remained 
stable, and patient did not require any transfusions. Urology 
evaluated the patient and did not recommend further workup as 
the bleeding had ceased.

#Rectal pain
Post-procedural rectal pain, worsening over the course of the 
day. Received Tylenol ___ q6h PRN and oxycodone ___ q4h PRN 
while in house.

#Leukocytosis
WBC elevated to 13. Likely post-procedural in the setting of 
biopsy. Afebrile and without any other evidence of infection. 
Lactate was slightly elevated to 2.4, but downtrended s/p 
fluids. 

CHRONIC/STABLE ISSUES:
======================
#Rising PSA: s/p trans-rectal prostate biopsy on ___, further
workup per outpatient urology. 

#HTN: cont home lisinopril 20mg qd

#HLD: cont home atorvastatin 20 qPM 

#Gout: cont home allopurinol ___ qd

TRANSITIONAL ISSUES
===================
[ ] F/u prostate biopsy pathology

# CODE: Full confirmed 
# CONTACT: Name of health care proxy: ___ 
Relationship: Twin sister 
Cell phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1.  Allopurinol ___ mg PO DAILY  
2.  Atorvastatin 20 mg PO QPM  
3.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
Bright red blood per rectum status post prostate biopsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you at ___ 
___.  

WHY WAS I ADMITTED TO THE HOSPITAL?
===================================
- You were admitted to the hospital because you were having 
bleeding from your rectum after having a prostate biopsy.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
==========================================
- You were given IV fluids and monitored overnight. You were not 
having any further bloody bowel movements and your blood counts 
stabilized.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
============================================  
- Please continue to take all your medications and follow up 
with your doctors at your ___ appointments.  

We wish you all the best!

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___